US08703805B2
The crude 4-bromofuran-2-carbonyl chloride (157 mmol theoretical) was dissolved in CH2Cl2 (500 mL) in a 1 L round bottomed flask. The flask was immersed in an ice bath and N,O-dimethyl-hydroxylamine hydrochloride (19.5 g, 200 mmol) was added. The cold suspension was then treated with N,N-diisopropylethylamine (75 mL, 430 mmol), and a small amount of 4-(N,N-dimethylamino)pyridine (catalytic). Several minutes after the addition of the 4-(N,N-dimethylamino)pyridine the ice bath was removed and the pale orange solution was allowed to warm to ambient temperature. After standing at ambient temperature for ˜16 hours the pale brown reaction mixture was quenched with water (100 mL) and diluted with CH2Cl2 (500 mL). The layers were separated and the organic layer was washed with 1N HCl (2×100 mL), H2O (100 mL), and saturated NaHCO3 (50 mL). The organics were dried over Na2SO4, filtered, and concentrated under reduced pressure to afford 4-bromo-furan-2-carboxylic acid methoxy-methyl-amide (25.7 g, 70% yield from crude acid) as a pale brown solid. 1H NMR of the material showed it to be very clean. 1H-NMR (400 MHz, CDCl3): δ 7.60 (1H, d, J=0.8 Hz), 7.14 (1H, d, J=0.8 Hz), 3.77 (3H, s), 3.35 (3H, s).

reactant | 4-bromofuran-2-carbonyl chloride | 157 mmol | BrC=1C=C(OC1)C(=O)Cl | C5H2BrClO2
reactant | N,O-dimethyl-hydroxylamine hydrochloride | 200 mmol, 19.5 g | Cl.CNOC
reactant | N,N-diisopropylethylamine | 430 mmol, 75 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
product | 4-bromo-furan-2-carboxylic acid methoxy-methyl-amide | 25.7 g, 70% yield | CON(C(=O)C=1OC=C(C1)Br)C | C7H8BrNO3
